US05389633
Production of ethyl 5-bromo-2,2-dimethylvalerate
To a solution of 28.7 ml of diisopropylamine in 150 ml of tetrahydrofuran was added 126 ml of 1.6M n-butyllithium-hexane with stirring at -5° to 0° C. and the mixture was further stirred for 30 minutes. This reaction mixture was cooled to -78° C. and 26.7 ml of ethyl isobutyrate was added dropwise. The mixture was stirred for 1 hour, after which 41.8 g of 1,3-dibromopropane was added dropwise. The reaction mixture was stirred at -78° C. for 1 hour and then at room temperature for 2 hours. The mixture was then poured in aqueous solution of ammonium chloride and extracted with ethyl acetate. The extract was washed with water and dried. The solvent was then distilled off and the residue was subjected to vacuum distillation to provide 40.3 g of the title compound as colorless oil. b.p. 76°-78° C./0.27 mmHg

reactant | diisopropylamine | 28.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl isobutyrate | 26.7 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1,3-dibromopropane | 41.8 g | BrCCCBr | C3H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 5-bromo-2,2-dimethylvalerate | 40.3 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
